US04772600
2-(4-Chlorophenyl)-N-(1-ethyl-3-pyrrolidinyl)-3H-imidazo[4,5-b]pyridine-3-acetamide hydrochloride hydrate [1:2:1]
A mixture of 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid, (5.0 g, 0.0174 mole) and 1,1'-carbonyldiimidazole (2.82 g, 0.0174 mole) in 150 ml of tetrahydrofuran was stirred at room temperature for 3 hrs. 3-Amino-N-ethylpyrrolidine (2.18 g, 0.019 mole) was added dropwise and the reaction mixture was allowed to stir at room temperature overnight.

reactant | 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.0174 mole, 5.0 g | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10ClN3O2
reactant | 1,1'-carbonyldiimidazole | 0.0174 mole, 2.82 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-Amino-N-ethylpyrrolidine | 0.019 mole, 2.18 g | NC1CN(CC1)CC | C6H14N2
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 2-(4-Chlorophenyl)-N-(1-ethyl-3-pyrrolidinyl)-3H-imidazo[4,5-b]pyridine-3-acetamide hydrochloride hydrate | O.Cl.ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)NC1CN(CC1)CC | InChI=1S/C20H22ClN5O.ClH.H2O/c1-2-25-11-9-16(12-25)23-18(27)13-26-19(14-5-7-15(21)8-6-14)24-17-4-3-10-22-20(17)26;;/h3-8,10,16H,2,9,11-13H2,1H3,(H,23,27);1H;1H2
